*********************************************************************
*  NICHICON CORPORATION and MoDeCH confidential
*  Date                 : 12/11/2015
*  File Name            : PCV1J220MCL6GS_v100.lib
*  Part Number          : PCV1J220MCL6GS
*  Simulator            : PSpice
*  Model Type           : RC-ladder 7 Elements Capacitor Model
*  Parameter Ver.       : Ver.1.00
*********************************************************************
* Modeling Conditions:
*   Temperature = 20 degC
*   DC Bias Voltage = 0 V
*   Small Signal Operation
*********************************************************************
* record (history):
* Ver.1.00 12/11/2015
*********************************************************************
*$
.SUBCKT PCV1J220MCL6GS 1 2
L1 1 3 1.901e-009
R1 3 4 0.015842
C1 4 2 1.5059e-005
R2 4 5 0.67529
C2 5 2 3.5875e-006
R3 5 6 10.8771
C3 6 2 2.6241e-006
.ENDS
